* C:\Users\RFLab\.julia\dev\CircModDesign.jl\src\Filter_Archetype_1.asc
V1 N011 0 AC 1
LFilt1 N002 N001 100u Rser=100m
CLFilt_C1 N003 N002 400n
RSrc N001 N011 1m
LFilt2 N004 N003 100u Rser=100m
CLFilt_C2 N005 N004 400n
LCFilt_L N003 0 100u Rser=100m
CFilt N003 0 400n
LNotch N006 N013 10
CNotch N013 0 1p
LNotch_Tune N006 N005 1p
LTee1 N007 N006 1p
LTee2 N008 N007 1p
CPar N007 0 1.5u
CSer N009 N008 10
CDrive N010 N009 66.7n
LDrive N010 N012 596u
RDrive N012 0 .75
.ac oct 1k 1k 500k
.backanno
.end
