* C:\Users\Eli\.julia\dev\CircModDesign\src\Filter_Archetype_Damped_3.asc
V1 N010 0 AC 1
LFilt1 N005 N004 100µ Rser=100m
CFilt1 N001 N005 400n
RSrc N004 N010 1m
LFilt2 N006 N001 100µ Rser=100m
CFilt2 N002 N006 400n
LFilt3 N001 0 100µ Rser=100m
CFilt3 N001 0 400n
LNotch N002 N012 10
CNotch N012 0 1p
LNotch_Tune 0 N002 10
CPar N003 0 1.5µ
CSer N008 N003 10
CDrive N009 N008 66.7n
LDrive N009 N011 596µ
RDrive N011 0 .75
RDamp1 N002 N001 1Meg
LDamp N007 N002 1p
CDamp N003 N007 10
RDamp2 N003 N002 1Meg
LNotch1 N002 N013 10
CNotch1 N013 0 1p
.ac oct 1k 1k 500k
.backanno
.end
